US06699910B2
A solution of 2,2-bis-[5,5-dimethyl-6-(tetrahydropyran-2-yloxy)-hexyl]-malonic acid diethyl ester (2.92 g, 5mmol) in concentrated HCl (2.4 mL) and water (1.6 mL) was refluxed for 1 h. Ethanol (8.2 mL) was added and the reaction mixture was heated to reflux for 3 h. The reaction mixture was diluted with water (20 mL) and extracted with diethyl ether (3×20 mL). The combined organic layers were washed with water (20 mL), brine (20 mL), and dried over Na2SO4. The solution was concentrated to furnish 2,2-bis(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid diethyl ester (1.74 g, 84%). 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 4.13 (q, J=7.2 Hz, 4H), 3.25 (s, 4H), 2.42 (s, 2H), 1.90-1.75 (m, 4H), 1.30-1.12 (m, 18H), 0.84 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 172.0, 71.7, 60.9, 57.4, 38.2, 34.9, 32.1, 24.8, 24.0, 23.7, 14.0.

reactant | 2,2-bis-[5,5-dimethyl-6-(tetrahydropyran-2-yloxy)-hexyl]-malonic acid diethyl ester | 5mmol, 2.92 g | C(C)OC(C(C(=O)OCC)(CCCCC(COC1OCCCC1)(C)C)CCCCC(COC1OCCCC1)(C)C)=O | C33H60O8
reactant | Ethanol | 8.2 mL | C(C)O | C2H6O
solvent | HCl | 2.4 mL | Cl | ClH
solvent | water | 1.6 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2,2-bis(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid diethyl ester | 1.74 g, 84% | C(C)OC(C(C(=O)OCC)(CCCCC(CO)(C)C)CCCCC(CO)(C)C)=O | C23H44O6
